US05173484
1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylic acid and 3-(1-pyrrolidinylmethyl)-3-hydroxy-pyrrolidine are reacted according to example 1, yielding 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(1-pyrrolidinylmethyl)-3-hydroxy-1-pyrrolidinyl]3-quinolinecarboxylic acid, melting point: 229°-234° C. (decomposition).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 3-(1-pyrrolidinylmethyl)-3-hydroxy-pyrrolidine | N1(CCCC1)CC1(CNCC1)O | C9H18N2O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(1-pyrrolidinylmethyl)-3-hydroxy-1-pyrrolidinyl]3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)(O)CN1CCCC1)F)=O)C(=O)O | C22H26FN3O4
